US05547950
(S)-N-[[3-[3,5-difluoro-4-[4-(2-methoxyethyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
A solution of (S)-N-[[3-[3,5-difluoro-4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (0.200 g, 0.441 mmol) in dichloromethane (1 mL) was treated with trifluoroacetic acid (4 mL) at room temperature for 1 h. The reaction mixture was concentrated in vacuo and the resultant residue combined with 2-chloroethyl methyl ether (403 μL, 4.41 mmol), potassium carbonate (0.730 g, 5.28 mmol), and acetonitrile (9 mL) and the mixture heated to reflux for 15 h. The reaction mixture was cooled to ambient temperature and concentrated in vacuo. The residue was triturated with dichloromethane, the solids filtered off, and the filtrate concentrated in vacuo to give the crude product. This crude material was chromatographed over silica gel (10 g), eluting with 1%, 3%, and then 5% methanol/chloroform, to afford, after concentration of appropriate fractions, 0.097 g (53%) of the title compound as an off-white solid with mp 162°-164° C.

reactant | (S)-N-[[3-[3,5-difluoro-4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.441 mmol, 0.200 g | FC=1C=C(C=C(C1N1CCN(CC1)C(=O)OC(C)(C)C)F)N1C(O[C@H](C1)CNC(C)=O)=O | C21H28F2N4O5
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-chloroethyl methyl ether | 4.41 mmol, 403 μL | COCCCl | C3H7ClO
reactant | potassium carbonate | 5.28 mmol, 0.730 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
product | (S)-N-[[3-[3,5-difluoro-4-[4-(2-methoxyethyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.097 g, 53% | FC=1C=C(C=C(C1N1CCN(CC1)CCOC)F)N1C(O[C@H](C1)CNC(C)=O)=O | C19H26F2N4O4
